US06359145B1
To a stirred solution of Pd (OAc)2 (75 mg, 0.34 mmol), nBu3P (136 mg, 0.67 mmol), and Et3N (442 mg, 4.37 mmol) in DMF (10 ml) was added 3-butene-1,2-diol (296 mg, 3.36 mmol) followed by methyl 3-bromophenylacetate (1.0 g, 4.37 mmol), and the reaction mixture was stirred at 100° C. for 5 h. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate) and evaporated in vacuo. The residue was purified by silica gel (25 g) column chromatography eluting with toluene/ethyl acetate (20:1) to give methyl 3-(4-hydroxy-3-oxobutyl)phenylacetate (193 mg, 24.4%) as an oil.

reactant | nBu3P | 0.67 mmol, 136 mg | P(CCCC)(CCCC)CCCC | C12H27P
reactant | Et3N | 4.37 mmol, 442 mg | CCN(CC)CC | C6H15N
reactant | 3-butene-1,2-diol | 3.36 mmol, 296 mg | C(C(C=C)O)O | C4H8O2
reactant | methyl 3-bromophenylacetate | 4.37 mmol, 1.0 g | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl 3-(4-hydroxy-3-oxobutyl)phenylacetate | 193 mg, 24.4% | OCC(CCC=1C=C(C=CC1)CC(=O)OC)=O | C13H16O4
